US05969140
1-(2-Bromo-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene and potassium phthalimide are treated in the same manner as in Example 6-(2) to give 1-(2-amino-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene which is a hydrolysis product of 1-(2-phthalimide-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene and listed in Table 6.

reactant | 1-(2-Bromo-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | BrC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C19H18BrNO4
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | 1-(2-amino-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | NC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C19H20N2O4
